US07220760B2
To a solution of (2-methyl-4-prop-2-ynylimino-3,4-dihydro-2H-quinolin-1-yl)-phenyl-methanone (0.5 g) in acetic acid (20 ml), sodium triacetoxyborohydride was added in small amounts (1.75 g) under stirring at room temperature. The reaction mixture was then stirred at room temperature for one hour and poured on 100 ml of cold water under stirring. The desired compound was filtered after precipitation. The compound was dissolved in ethyl acetate and washed with water. The organic layer was separated and dried over sodium sulfate. The solvent was removed under reduce pressure to give a brown oil which was purified by flash chromatography with cyclohexane/ethyl acetate (95/5) as eluent and then cyclohexane/ethyl acetate (90/10) to give a mixture of diastereoisomere cis-trans (50–50) of (2-methyl-4-prop-2-ynylamino-3,4-dihydro-2H-quinolin-1-yl)-phenyl-methanone (0.06 g, 17.6% yield).

reactant | (2-methyl-4-prop-2-ynylimino-3,4-dihydro-2H-quinolin-1-yl)-phenyl-methanone | 0.5 g | CC1N(C2=CC=CC=C2C(C1)=NCC#C)C(=O)C1=CC=CC=C1 | C20H18N2O
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | (2-methyl-4-prop-2-ynylamino-3,4-dihydro-2H-quinolin-1-yl)-phenyl-methanone | 0.06 g, 17.6% yield | CC1N(C2=CC=CC=C2C(C1)NCC#C)C(=O)C1=CC=CC=C1 | C20H20N2O
